### PR TITLE
feat: define rotateLeft/Right with modulo

### PR DESCRIPTION
**Pull request by bollu**
This ensures that rotateLeft/Right behave correctly even when the rotation amount is larger than the bitwidth.

This shall be followed up with `getLsb` theorems for rotations for LeanSAT. 

We choose to write `aux` definitions since it is cleaner to reason about the `aux` theorems with the assumption that `rotation-amount < bit-width`, followed by auxiliary lemmas that link the behavior of rotation to the canonical case when `rotation-amount < bit-width`.

Proof strategy we will execute based on these definitions: [Link to proof of `getLsb_rotateLeft`](https://github.com/opencompl/lean4/blob/a0b18ec0f4ff9af488ced980fc31b2da81137315/src/Init/Data/BitVec/Lemmas.lean#L1129-L1204)

### CODE REVIEW

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -534,6 +534,11 @@ def sshiftRight (a : BitVec n) (s : Nat) : BitVec n := .ofInt n (a.toInt >>> s)
 instance {n} : HShiftLeft  (BitVec m) (BitVec n) (BitVec m) := ⟨fun x y => x <<< y.toNat⟩
 instance {n} : HShiftRight (BitVec m) (BitVec n) (BitVec m) := ⟨fun x y => x >>> y.toNat⟩
 
+/-- Auxiliary function for `rotateLeft`, which does not take into account the case where
+the rotateion amount is greater than the bitvector width. -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean:538]:
```suggestion
the rotation amount is greater than the bitvector width. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1043,4 +1043,32 @@ theorem toNat_intMax_eq : (intMax w).toNat = 2^w - 1 := by
...
 
+/-! # Rotate Left -/
+
+/-- rotateLeft is invariant under `mod` by the bitwidth. -/
+@[simp]
+theorem rotateLeft_mod_eq_rotateLeft {x : BitVec w} {r : Nat} :
+    x.rotateLeft (r % w) = x.rotateLeft r := by
+  simp only [rotateLeft, Nat.mod_mod]
+
+/-- `rotateRight` equals the bit fiddling definition of `rotateRightAux` when the rotation amount is
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1054]:
```suggestion
/-- `rotateLeft` equals the bit fiddling definition of `rotateLeftAux` when the rotation amount is
```

**Review by tobiasgrosser — APPROVED** [review]
